US06333323B1
1-(5-Chloroindol-3-yl)-3-(3-carboxyphenyl)-3-hydroxy-propen-1-one
The carboxylic acid in Example 100 was esterified to 1-(1-benzenesulfonyl-5-chloroindol-3-yl)-3-(3-methoxycarbonylphenyl)-3-hydroxy-propen-1-one. The compound was hydrolyzed with lithium hydroxide in methanol to give the titled compound.

reactant | 1-(1-benzenesulfonyl-5-chloroindol-3-yl)-3-(3-methoxycarbonylphenyl)-3-hydroxy-propen-1-one | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)Cl)C(C=C(O)C1=CC(=CC=C1)C(=O)OC)=O | C25H18ClNO6S
reactant | lithium hydroxide | [OH-].[Li+]
solvent | methanol | CO | CH4O
product | 1-(5-Chloroindol-3-yl)-3-(3-carboxyphenyl)-3-hydroxy-propen-1-one | ClC=1C=C2C(=CNC2=CC1)C(C=C(O)C1=CC(=CC=C1)C(=O)O)=O | C18H12ClNO4
